US03964903
Zinc dodecyl succinate
In a similar way were prepared, zinc decyl succinate (m.p. 123°C), zinc undecyl succinate (m.p. 121°C), zinc tetradecyl succinate (m.p. 123°C), zinc hexadecyl succinate (m.p. 124°C), zinc octadecyl succinate (m.p. 123°C), zinc docosyl succinate (m.p. 123°C), ##EQU1##

reactant | zinc decyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCC.[Zn+2].C(CCCCCCCCC)OC(CCC(=O)[O-])=O
reactant | zinc undecyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCC)OC(CCC(=O)[O-])=O
reactant | zinc tetradecyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCCC)OC(CCC(=O)[O-])=O
reactant | zinc hexadecyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCCCCC)OC(CCC(=O)[O-])=O
reactant | zinc octadecyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCCCCCCC)OC(CCC(=O)[O-])=O
reactant | zinc docosyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCCCCCCCCCCCC)OC(CCC(=O)[O-])=O
product | Zinc dodecyl succinate | C(CCC(=O)[O-])(=O)OCCCCCCCCCCCC.[Zn+2].C(CCCCCCCCCCC)OC(CCC(=O)[O-])=O | InChI=1S/2C16H30O4.Zn/c2*1-2-3-4-5-6-7-8-9-10-11-14-20-16(19)13-12-15(17)18;/h2*2-14H2,1H3,(H,17,18);/q;;+2/p-2
